US04432990
Erythro 5-amino-1-(2-hydroxynon-3-yl)-1H-imidazole-4-carbothioamide
A solution of erythro 5-amino-1-(2-hydroxynon-3-yl)-1H-imidazole-4-carbonitrile (1.02 g; 0.004 m) and potassium hydroxide (0.91 g; 0.163 m) in dry methanol (80 ml) was cooled to 0°, saturated with hydrogen sulphide, and heated to 100° for 5 hours. After cooling to 0°, nitrogen was passed through the solution to remove excess hydrogen sulphide and the residue was evaporated in vacuo to give a yellow solid. This solid was suspended in water and acetic acid added dropwise to pH5. The resulting precipitate was collected by filtration and washed with water. The residue was dissolved in dichloromethane/ethyl acetate, dried (Na2SO4) and evaporated in vacuo to give a white solid (1.22 g). Recrystallisation from ethyl acetate/charcoal gave a pale yellow solid, which was triturated in ether to give the product as white crystals (0.74 g) mp 170°-171°.

reactant | 5-amino-1-(2-hydroxynon-3-yl)-1H-imidazole-4-carbonitrile | 1.02 g | NC1=C(N=CN1C(C(C)O)CCCCCC)C#N | C13H22N4O
reactant | potassium hydroxide | 0.91 g | [OH-].[K+]
reactant | hydrogen sulphide | S | H2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 80 ml | CO | CH4O
solvent | water | O | H2O
product | 5-amino-1-(2-hydroxynon-3-yl)-1H-imidazole-4-carbothioamide | 1.22 g | NC1=C(N=CN1C(C(C)O)CCCCCC)C(N)=S | C13H24N4OS
